Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / MS ___
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
Radiation therapy ___

 
History of Present Illness:
___ man with long history of metastatic prostate cancer who is
admitted from the ED after CT imaging showed new large T8 lesion
and concern for cord compromise.
Patient has an extensive history of metastatic prostate cancer,
which has been generally well controlled on various combinations
of enzalutamide, estrogen patches, Lupron, and prior radium
treatments. Most recently, he has been on enzalutamide and
estrogen patches since ___ with stably elevated PSA
levels. He was seen in ___ clinic on ___ and underwent
restaging CT torso, which showed large T8 lesion with concern 
for
cord compromise. He was referred to the ED.
In the ED, initial VS were pain 0, T 98.1, HR 72, BP 163/76, RR
16, O2 98%RA. Initial labs notable for WBC 3.5, HCT 35.8, PLT
136, Na 135, K 4.4, HCO3 27, Cr 0.8, ALT <5, AST 14, ALP 99,
TBili 0.5, PSA 62, UA negative. MRI read is pending but was
reviewed by the ortho-spine fellow who deferred immediate
surgical management. Patient was given 5mg po oxycodone prior to
transfer for further management.
On arrival to the floor, patient has no acute complaint. He 
notes
a prolonged history of intermittent back pain which has 
worsening
over the last 3 weeks and even more so over the last few days 
and
is often of a spasm type. The frequency varies and it is not
always brought on by the same movements. He denies any numbness
or tingling or bowel incontinence. He has had some intermittent
bladder incontinence for years since his prior prostate surgery.
He states the pain radiates around to the front of his stomach
but does not radiate down into his legs. He has been taking some
oxycodone at home for the pain. He denies any fevers, cough,
shortness of breath, vomiting, diarrhea, or rashes. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY: The patient has a long history of
adenocarcinoma of the prostate, being diagnosed in ___.  He
underwent a radical prostatectomy, negative margins, negative
lymph nodes; however, developed soon thereafter a rising PSA and
was placed on Casodex for approximately ___ years.  He then
took ProstaSol, which is a nonprescription dietary supplement,
which causes PSA decrease; however, ProstaSol became available 
as
it was found to contain DES.  He at that time also sought 
several
alternative medications and herbal approaches.  In ___, he had
gallbladder disease, originally thought to be bile duct cancer,
but eventually he had resection, which included partial
hepatectomy and gallbladder removal and was found not to have
carcinoma.  He also in ___ began Lupron under the management of
Dr. ___ however, felt he had some cognitive issues and
medication was stopped.  He also participated in the FOLFOX
trial. He has been on enzalutamide montherapy now for several
years. However, in ___ did have worsening back pain.
Enzalutamide was stopped and he was restarted on Lupron and 
along
with radium treatments and estropgen patches. His disease was
quiescent until rising PSA in ___ prompted restarting
enzalutamide with good response in his PSA levels. 
 
PAST MEDICAL HISTORY: 
-Metastatic prostate cancer
-Hypertension
-Syncope in ___
-Status post appendectomy
-Status post tonsillectomy
-Status post partial hepatectomy and cholecystectomy
- Left arm fracture ___ sp ORIF

 
Social History:
___
Family History:
Notable for his mother having multiple myeloma and a grandfather
with colon cancer.  No family history of GU malignancies.
 
Physical Exam:
===ADMISSION PHYSICAL EXAM===
VS: T 97.8 HR 64 BP 176/83 RR 18 SAT 96 % O2 on RA
GENERAL: Pleasant, lying in bed comfortably
EYES: Anicteric sclerea, EOMI; 
ENT: Oropharynx clear without lesion
CARDIOVASCULAR: Regular rate and rhythm
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally
GASTROINTESTINAL: Nondistended; soft, nontender without rebound
or guarding
MUSKULOSKELATAL: Warm, well perfused extremities, trace 
bilateral
lower extremity edema; Normal bulk 
NEURO: Alert, oriented, no focal deficits, strength ___
diffusely.
SKIN: No significant rashes, scattered bruises.

===DISCHARGE PHYSICAL EXAM===
97.8PO 141 / 74 60 18 98 RA 
Exam otherwise unchanged from admission
 
Pertinent Results:
===ADMISSION LABS===
___ 10:35AM BLOOD WBC-3.5* RBC-4.02* Hgb-12.4* Hct-35.8* 
MCV-89 MCH-30.8 MCHC-34.6 RDW-12.8 RDWSD-41.6 Plt ___
___ 10:35AM BLOOD Neuts-73.5* Lymphs-18.4* Monos-5.9 
Eos-1.1 Baso-0.8 Im ___ AbsNeut-2.60 AbsLymp-0.65* 
AbsMono-0.21 AbsEos-0.04 AbsBaso-0.03
___ 10:35AM BLOOD UreaN-12 Creat-0.8 Na-135 K-4.4 Cl-98 
HCO3-27 AnGap-14
___ 10:35AM BLOOD ALT-<5 AST-14 AlkPhos-99 TotBili-0.5
___ 08:45AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.2
___ 10:35AM BLOOD Testost-12*
___ 10:35AM BLOOD Estradl-87*
___ 10:35AM BLOOD PSA-62*

===DISCHARGE LABS===

___ 08:30AM BLOOD WBC-5.1# RBC-4.37* Hgb-13.6* Hct-40.0 
MCV-92 MCH-31.1 MCHC-34.0 RDW-12.6 RDWSD-42.3 Plt ___
___ 08:30AM BLOOD Glucose-100 UreaN-15 Creat-0.9 Na-138 
K-3.8 Cl-99 HCO3-29 AnGap-14

===MICRO===
___ URINE URINE CULTURE-PENDING EMERGENCY WARD 

===STUDIES===
___HEST W/CONTRAST 
There is a large expansile/destructive T8 vertebral body lesion 
(most likely metastatic) which extends into the spinal canal and 
appears to compromise the spinal cord displacing it to the right 
(4, 98).  This lesion as well as cord compromise could be better 
assessed with MRI. 

___ Imaging MRI THORACIC AND LUMBAR 
1. Interval progression of osseous metastatic disease at T7-T9 
levels with new enhancing epidural soft tissue component causing 
rightward cord displacement, cord deformity and cord 
compression.  Long segment of T2 hyperintensity within the 
spinal cord may represent a potential syrinx as described above 
and felt less likely represent cord edema. 
2. Moderate T8 and mild L1 vertebral height loss, new from the 
prior study. 
3. Mild lumbar spondylosis, as described above. 

 
Brief Hospital Course:
___ year gentleman with a long history of metastatic prostate 
cancer with an enlarging, painful T8 lesions surrounding the 
spinal cord and involving the T7 and t9 vertebral bodies without 
neurologic compromise. Patient was started on dexamethasone and 
was evaluated by both orthopedic spinal surgery as well as 
radiation oncology upon admission, with decision to treat spine 
lesion with EBXRT to hopefully reduce the bulk of the disease, 
improve pain, and prevent possible neurologic compromise. 
Radiation planning with first treatment immediately following on 
___, with subsequent session on ___. Patient was discharged 
with dexamethasone taper and plan for additional radiation 
therapy, per radiation/oncology recommendations. 

TRANSITIONAL ISSUES:
====================
- Dexamethasone taper (6mg BID on discharge)
- Rad/onc follow-up - plan for radiation ___
- Started PPI while on dexamethasone

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

2. Docusate Sodium 100 mg PO DAILY 
3. Milk of Magnesia 30 mL PO DAILY:PRN Constipation 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Estradiol Transdermal Patch (estradiol) 0.4 mg transdermal 
2X/WEEK 
7. Xtandi (enzalutamide) 160 mg oral DAILY 

 
Discharge Medications:
1.  Dexamethasone 6 mg PO Q12H 
RX *dexamethasone 2 mg 3 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
2.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  Docusate Sodium 100 mg PO DAILY  
4.  Estradiol Transdermal Patch (estradiol) 0.4 mg transdermal 
2X/WEEK  
5.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation  
6.  Multivitamins 1 TAB PO DAILY  
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4h:PRN Disp #*30 Tablet 
Refills:*0 
8.  Vitamin D 1000 UNIT PO DAILY  
9.  Xtandi (enzalutamide) 160 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
metastatic prostate cancer with extension of a T8 lesion with 
concern for spinal cord compromise

Secondary diagnoses:
Metastatic prostate cancer
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
because you were experiencing back pain and were found to have 
extension of a metastatic lesion in the bones surrounding your 
spinal cord. Your pain significantly improved with steroid 
medications, but we were concerned that you would need urgent 
treatment of the mass in your spine. We treated you with 
radiation, and you are being set up with additional treatments. 
You were feeling significantly better by the time you were 
discharged. 

It was a pleasure caring for you!
Your ___ Care Team
 
Followup Instructions:
___